US05455273
trans-N-(4-Chlorobenzoyl)-N-methyl-4-[4-(2-hydroxyethyl)-isopropylaminomethylphenyl]-cyclohexylamine
380 mg (1 mMol) of trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-chloromethylphenyl)cyclohexylamine are reacted with 280 mg (2 mMol) of potassium carbonate and 110 mg (1.07 mMol) of 2-isopropylaminoethanol in 3 ml of dimethylformamide as described in Example 1. 259 mg (58.5% of theory) of the title compound are obtained in the form of colourless crystals, melting point 98°-100° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-(4-chloromethylphenyl)cyclohexylamine | 1 mMol, 380 mg | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CCl)C=C1 | C21H23Cl2NO
reactant | potassium carbonate | 2 mMol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-isopropylaminoethanol | 1.07 mMol, 110 mg | C(C)(C)NCCO | C5H13NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | trans-N-(4-Chlorobenzoyl)-N-methyl-4-[4-(2-hydroxyethyl)-isopropylaminomethylphenyl]-cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCO)CNC(C)C)C=C1 | C26H35ClN2O2
